US06255333B1
5-Bromo-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trimethylsilylethynylpyrazole
To a stirred solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-trimethylsilylethynylpyrazole (30 mg, the compound of Example A2) in acetonitrile (0.5 ml) and bromoform (0.5 ml) was added dropwise over five minutes n-butyl nitrite (0.025 ml). The mixture was heated at 70° C. for 30 minutes, then cooled and evaporated. The residue was purified by column chromatography on silica gel (40 g) eluted with dichloromethane: hexane (1:4) to provide the title compound as a white solid m.p. 130° C. (decomp.).

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)4-trimethylsilylethynylpyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C#C[Si](C)(C)C | C16H13Cl2F3N4Si
reactant | bromoform | 0.5 ml | C(Br)(Br)Br | CHBr3
reactant | n-butyl nitrite | 0.025 ml | N(=O)OCCCC | C4H9NO2
solvent | acetonitrile | 0.5 ml | C(C)#N | C2H3N
product | 5-Bromo-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trimethylsilylethynylpyrazole | BrC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C#C[Si](C)(C)C | C16H11BrCl2F3N3Si
